US06683184B2
1-[(2-Methoxyquinoxalin-3-yl)aminothiocarbonyl]-4-(4-but-ylphenyl)piperazine
Phenyl N-(2-methoxyquinoxalin-3-yl)thiocarbamate and 1-(4-butylphenyl)piperazine were reacted by the same way with the example 63 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinoxalin-3-yl)thiocarbamate | COC1=NC2=CC=CC=C2N=C1NC(OC1=CC=CC=C1)=S | C16H13N3O2S
reactant | 1-(4-butylphenyl)piperazine | C(CCC)C1=CC=C(C=C1)N1CCNCC1 | C14H22N2
product | 1-[(2-Methoxyquinoxalin-3-yl)aminothiocarbonyl]-4-(4-but-ylphenyl)piperazine | yield: 62.5% | COC1=NC2=CC=CC=C2N=C1NC(=S)N1CCN(CC1)C1=CC=C(C=C1)CCCC | C24H29N5OS
